US08420634B2
To a mixture of 4-trifluoromethoxyaniline (2.07 mmol) and ammonium thiocyanate (2 mmol) in acetonitrile, is added benzyltrimethylammonium tribromide, at room temperature. The reaction is left to proceed while stirring at room temperature for 24 hours; it is then neutralised with NaHCO3 and extracted with CH2Cl2. The combined organic extracts are washed with H2O, dried over Na2SO4, filtered and then evaporated under vacuum. The crude product is purified by chromatography through silica, eluting with petroleum ether/AcOEt (1:1), and a solid obtained that is recrystallised from hexane/ethyl ether to give 2-amino-6-(trifluoromethoxy)-benzothiazole as pale yellow flakes, with a yield of 80%.

reactant | 4-trifluoromethoxyaniline | 2.07 mmol | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | ammonium thiocyanate | 2 mmol | [S-]C#N.[NH4+]
reactant | benzyltrimethylammonium tribromide | [Br-].[Br-].[Br-].C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-amino-6-(trifluoromethoxy)-benzothiazole | yield of 80% | NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
